US08309593B2
A solution of LiALH4 (1 M, 20 mL, 20 mmol) was added dropwise to a cold (−15° C.) solution of (R)-benzyl 4-(methoxy(methyl)carbamoyl)-2,2-dimethyloxazolidine-3-carboxylate (12.2 g, 37.9 mmol) in THF (75 mL). The mixture was stirred for 30 min keeping the temperature below 0° C. A saturated solution of KHSO4 (100 mL) was added slowly to the mixture and it was warmed to room temperature. The mixture was filtered and the solvent was removed to dryness. (R)-benzyl 4-formyl-2,2-dimethyloxazolidine-3-carboxylate was obtained as a clear oil (9.161 g, 92% yield) after purification by column chromatography (SiO2, using a mixture of hexane/EtOAc). 1H NMR (CDCl3, 400 mHz, ppm); 1.7 (m, 6H), 4.15 (m, 2H), 4.4 (m, 1H), 5.15, (s, 1H), 5.2 (m, 1H), 7.3 (m, 5H), 9.6 (m, 1H).

reactant | (R)-benzyl 4-(methoxy(methyl)carbamoyl)-2,2-dimethyloxazolidine-3-carboxylate | 37.9 mmol, 12.2 g | CON(C(=O)[C@@H]1N(C(OC1)(C)C)C(=O)OCC1=CC=CC=C1)C | C16H22N2O5
reactant | KHSO4 | 100 mL | OS(=O)(=O)[O-].[K+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | (R)-benzyl 4-formyl-2,2-dimethyloxazolidine-3-carboxylate | C(=O)[C@@H]1N(C(OC1)(C)C)C(=O)OCC1=CC=CC=C1 | C14H17NO4
